US09428490B2
(Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamido)-3-azabicyclo[3.1.0]hexane-3-carboxylate (0.05 g, 1.0 eq.) was dissolved in DCM (3 mL) and cooled to 0° C. where dioxane:HCl (0.2 mL) was added dropwise and stirred for 30 min. The reaction was allowed to warm to room temperature and stirred for 30 min, concentrated under reduced pressure. The crude product was triturated with ether to afford (Z)—N-(3-azabicyclo[3.1.0]hexan-6-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamide hydrochloride (0.015 g, 37.5% yield). 1H NMR (400 MHz, DMSO) δ, 9.61 (s, 1H), 8.75 (s, 2H), 8.60 (s, 2H), 8.30 (s, 1H), 7.38-7.40 (d, J=10.4 Hz, 1H), 5.87-5.89 (d, J=10.4 Hz, 1H), 2.91 (s, 1H), 2.14 (s, 2H), 1.23 (s, 3H); LCMS for Chemical Formula: C18H16F6N5O [M+H]+ 432.34 found 432.19 at retention time 2.302 min.

reactant | (Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamido)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.05 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NC1C2CN(CC12)C(=O)OC(C)(C)C)(F)F | C23H23F6N5O3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | HCl | 0.2 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (Z)—N-(3-azabicyclo[3.1.0]hexan-6-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamide hydrochloride | 0.015 g, 37.5% yield | Cl.C12CNCC2C1NC(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | InChI=1S/C18H15F6N5O.ClH/c19-17(20,21)10-3-9(4-11(5-10)18(22,23)24)16-26-8-29(28-16)2-1-14(30)27-15-12-6-25-7-13(12)15;/h1-5,8,12-13,15,25H,6-7H2,(H,27,30);1H/b2-1-;
